US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 20 mg, 0.046 mmol) was dissolved in DMF (1 mL) prior to the addition of 4-methylmorpholine (0.041 mL, 0.371 mmol), ethanamine, HCl (4.92 mg, 0.060 mmol), and HATU (31.7 mg, 0.083 mmol). This was stirred overnight and was then purified by preparative HPLC (PHENOMENEX® Luna 5u C18 21.2×100 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 10 min, 20 mL/min, 220 nM, product retention time=12.0 min) to give (R/S)-N-ethyl-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide (14.5 mg, 0.026 mmol, 56.5% yield): LCMS=459.1 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.17 (2 H, d, J=8.35 Hz), 7.66-7.74 (4 H, m), 7.53-7.64 (3 H, m), 5.10 (1 H, s), 3.21-3.30 (2 H, m), 1.14 (3 H, t, J=7.25 Hz). HPLC Peak RT=10.60 min (Analytical Method C).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.046 mmol, 20 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | 4-methylmorpholine | 0.371 mmol, 0.041 mL | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.083 mmol, 31.7 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-ethyl-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetamide | 0.026 mmol, 14.5 mg, 56.5% yield | C(C)NC(C(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C22H17F3N4O4
